US07582773B2
Step 6: Synthesis of 1-Benzyl-3-methyl-2-phenyl-6-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(1-benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetonitrile (0.288 g, 0.672 mmol) was reacted with NaN3 (0.218 g, 3.360 mmol) and NH4Cl (0.180 g, 3.360 mmol) in DMF (5 ml) to give the product (0.245 g, 0.520 mmol, 77%) as a white solid, dec. 224.5-226° C. 1H NMR (DMSO-d6) δ 2.23 (s, 3H), 5.39 (s, 2H), 5.50 (s, 2H), 6.85 (d, J=7.3 Hz, 2H), 7.12 (t, J=8.4 Hz, 3H), 7.18 (t, J=7.0 Hz, 2H), 7.35-7.44 (m, 4H), 7.48 (t, J=7.2 Hz, 2H), 7.60-7.62 (m, 4H), 16.80 (broad s, 1H); IR (solid) 3020, 2910, 1605, 1520, 1480, 1460, 1340 and 1240 cm−1; [ESI(−)], m/z 470 (M−H)−; Anal. Calcd. for C30H25N5O: C, 76.41; H, 5.34; N, 14.85; Found: C, 76.33; H, 5.28; N, 14.91.

reactant | [4-(1-benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetonitrile | 0.672 mmol, 0.288 g | C(C1=CC=CC=C1)N1C(=C(C2=CC=C(C=C12)C1=CC=C(OCC#N)C=C1)C)C1=CC=CC=C1 | C30H24N2O
reactant | NaN3 | 3.360 mmol, 0.218 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 3.360 mmol, 0.180 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-3-methyl-2-phenyl-6-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC=C(C=C12)C1=CC=C(C=C1)OCC1=NN=NN1)C)C1=CC=CC=C1 | C30H25N5O
